US05189023
Bis-(2-phenylethyl)chlorophosphate
To a solution of phosphorus oxychloride ((1.53 g, 10 mmol) in anhydrous diethyl ether (20 ml), cooled at 0° C. under argon, is added a solution of 2.44 g (20 mmol) of phenethyl alcohol in diethyl ether (5 ml), followed by 2.02 g (20 mmol) of triethylamine in diethyl ether (5 ml). The mixture is stirred for 1 hour at 0° C., and then for 17 hours at room temperature. The final suspension is filtered, and the filtrate is evaporated to give 3.07 g of a colorless liquid.

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phenethyl alcohol | 20 mmol, 2.44 g | C(CC1=CC=CC=C1)O | C8H10O
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | Bis-(2-phenylethyl)chlorophosphate | 3.07 g | C1(=CC=CC=C1)CCOP(=O)(OCCC1=CC=CC=C1)Cl | C16H18ClO3P
